US04073914
A suspension of 2.5 g of N2 -(7-methyl-2-naphthalenesulfonyl)-L-arginine in 20 ml of thionyl chloride was stirred for 2 hours at room temperature. Addition of cold dry diethyl ether resulted in a precipitate which was collected by filtration and washed several times with dry diethyl ether to give N2 -(7-methyl-2-naphthalenesulfonyl)-L-arginyl chloride hydrochloride.

reactant | N2 (7-methyl-2-naphthalenesulfonyl)-L-arginine | 2.5 g | N#N.CC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
product | N2 (7-methyl-2-naphthalenesulfonyl)-L-arginyl chloride hydrochloride | N#N.Cl.CC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl | InChI=1S/C17H21ClN4O3S.ClH.N2/c1-11-4-5-12-6-7-14(10-13(12)9-11)26(24,25)22-15(16(18)23)3-2-8-21-17(19)20;;1-2/h4-7,9-10,15,22H,2-3,8H2,1H3,(H4,19,20,21);1H;/t15-;;/m0../s1
